US04612316
(±)-trans-7-Pivaloyloxy-1,2,3,4,4a,5,6,10b-octahydrobenzo(f)quinoline hydrobromide (Method b)
(±)-trans-7-Hydroxy-1,2,3,4,4a,5,6,10b-octahydrobenzo(f)quinoline hydrobromide (50 mg, 0.17 mmol) was dissolved in trifluoroacetic acid (1 ml). Pivaloyl chloride (0.2 ml) was added and the mixture was stirred at room temperature overnight. After evaporation of the solvent, the residue was partitioned between H2O and CH2Cl2. The organic layer was concentrated and applied to a SiO2 column and the product was eluted with CH2Cl2 -MeOH. Fractions containing the product were collected. The solvent was evaporated yielding 20 mg of an oil. GC-MS: M+ at m/e 287.

reactant | (±)-trans-7-Hydroxy-1,2,3,4,4a,5,6,10b-octahydrobenzo(f)quinoline hydrobromide | 0.17 mmol, 50 mg | Br.OC1=CC=CC=2[C@@H]3CCCN[C@H]3CCC21
reactant | Pivaloyl chloride | 0.2 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (±)-trans-7-Pivaloyloxy-1,2,3,4,4a,5,6,10b-octahydrobenzo(f)quinoline hydrobromide | 20 mg | Br.C(C(C)(C)C)(=O)OC1=CC=CC=2[C@@H]3CCCN[C@H]3CCC21 | InChI=1S/C18H25NO2.BrH/c1-18(2,3)17(20)21-16-8-4-6-12-13-7-5-11-19-15(13)10-9-14(12)16;/h4,6,8,13,15,19H,5,7,9-11H2,1-3H3;1H/t13-,15-;/m0./s1
